US09169295B2
tert-Butyl 3-(3-benzoylthioureido)propylcarbamate
To an ice cold solution of tert-butyl 3-aminopropylcarbamate (3.56 g, 20.43 mmol) in CH2Cl2 (80 mL) is added dropwise benzoyl isothiocyanate (3.50 g, 21.45 mmol). The reaction mixture is stirred at room temp for 2 h after which the solvent is removed in vacuo. The resulting residue is partitioned with CH2Cl2 and water, the water layer is extracted with CH2Cl2, the organic layers are combined, washed with brine, dried over Na2SO4, filtered and evaporated to dryness to give 6.89 g (quantitative yield) of the title compound. LC/MS (Condition A): ret. T=3.56 min, (M+H)+ 338.26.

reactant | tert-butyl 3-aminopropylcarbamate | 20.43 mmol, 3.56 g | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | benzoyl isothiocyanate | 21.45 mmol, 3.50 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-(3-benzoylthioureido)propylcarbamate | 6.89 g, quantitative yield | C(C1=CC=CC=C1)(=O)NC(NCCCNC(OC(C)(C)C)=O)=S | C16H23N3O3S
